US06953857B2
(ii) 4-Aminomethyl-3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-2′-ol
To a solution of 500 mg (2′-Hydroxy-3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-4-ylmethyl)-carbamic acid tert-butyl ester in 5 ml CH2Cl2 3 ml TFA was added dropwise at 0° C. After 16 h 20 ml toluene were added and the solvent removed under reduced pressure to yield a brown foam.

reactant | (2′-Hydroxy-3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-4-ylmethyl)-carbamic acid tert-butyl ester | 500 mg | C(C)(C)(C)OC(NCC1CCN(CC1)C1=CC(=NC=C1)O)=O | C16H25N3O3
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | CH2Cl2 | 5 ml | C(Cl)Cl | CH2Cl2
product | 4-Aminomethyl-3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-2′-ol | NCC1CCN(CC1)C1=CC(=NC=C1)O | C11H17N3O
